US06559145B2
N-(4-Chlorobenzyl)-1H-thieno[2,3-e][1,3,4]thiadiazine-3-carboxamide 4,4-Dioxide [BC.3, X=Cl].
A solution containing sodium nitrite (0.06 g) and water (1 mL) is cooled to 0° C. before adding a solution of 2-((2-amino-3-thienyl)sulfonyl)-N-(4-chlorobenzyl)-acetamide (Preparation 54, 0.255 g) in hot acetic acid (10 mL) dropwise. The solution is warmed to room temperature and stirred for 30 minutes. The reactionmixture is poured into a beaker containing ice. The crude product is collected by filtration and dried under high vacuum to provide 0.18 g (66%) of the title compound as a brown solid. Physical characteristics: MS (ESI+) m/z 356 (M+H)+.

reactant | sodium nitrite | 0.06 g | N(=O)[O-].[Na+]
reactant | water | 1 mL | O | H2O
reactant | 2-((2-amino-3-thienyl)sulfonyl)-N-(4-chlorobenzyl)-acetamide | 0.255 g | NC=1SC=CC1S(=O)(=O)CC(=O)NCC1=CC=C(C=C1)Cl | C13H13ClN2O3S2
solvent | acetic acid | 10 mL | C(C)(=O)O | C2H4O2
product | N-(4-Chlorobenzyl)-1H-thieno[2,3-e][1,3,4]thiadiazine-3-carboxamide 4,4-Dioxide | 0.18 g, 66% | ClC1=CC=C(CNC(=O)C=2S(C3=C(NN2)SC=C3)(=O)=O)C=C1 | C13H10ClN3O3S2
